US05532235
Methyl 5,6,7,8-tetrahydro-5-oxo-4H-furo[3,2-b]azepine-3-carboxylate
To a mixture of 1.0 g of methyl 4,5,6,7-tetrahydro-4-oxo-3-benzofurancarboxylate and 502 mg of sodium azide in 5 ml of chloroform is added dropwise at 32°-36° C. under argon 1.4 ml of sulfuric acid. The reaction mixture is stirred at room temperature for 24 hours. The reaction mixture is diluted with 14 ml of water and rendered alkaline with NH4OH and extracted with chloroform. The separated organic layer is washed with water, brine and dried with Na2SO4 and concentrated in vacuo to give 1.0 g of the desired product as a white solid.

reactant | methyl 4,5,6,7-tetrahydro-4-oxo-3-benzofurancarboxylate | 1.0 g | O=C1CCCC2=C1C(=CO2)C(=O)OC | C10H10O4
reactant | sodium azide | 502 mg | [N-]=[N+]=[N-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | NH4OH | [NH4+].[OH-]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 14 ml | O | H2O
product | Methyl 5,6,7,8-tetrahydro-5-oxo-4H-furo[3,2-b]azepine-3-carboxylate | 1.0 g | O=C1CCCC2=C(N1)C(=CO2)C(=O)OC | C10H11NO4
